US04707497
An amount of 3.53 g of phenylglyoxal is reacted under stirring at room temperature for 3 hours with 5 g of 2-amino-7-methoxy-1,2,3,4-tetrahydronaphthalene hydrochloride in 100 ml of methanol in the presence of 0.9 g of sodium borohydride. After cooling to 4° C., 4,3 g of sodium borohydride are added and the reacting mixture is left under stirring at room temperature for a night. After addition of 20 ml of water, the solution is stirred at room temperature for 15 minutes, then it is evaporated to dryness. The residue is dissolved in 300 ml of ethyl acetate and 60 ml of water; after filtration, the organic phase is separated, dried over magnesium sulfate, filtered and evaporated to dryness. The oil thus obtained is purified by flash-chromatography by using a mixture ethyl acetate/methanol 8/2 as eluant to obtain the 2-[(7-methoxy-1,2,3,4-tetrahydronaphth-2-yl)amino]-1-phenylethanol hydrochloride. Yield: 20% of the theoretical value.

reactant | phenylglyoxal | 3.53 g | C1(=CC=CC=C1)C(=O)C=O | C8H6O2
reactant | 2-amino-7-methoxy-1,2,3,4-tetrahydronaphthalene hydrochloride | 5 g | Cl.NC1CC2=CC(=CC=C2CC1)OC
reactant | sodium borohydride | 0.9 g | [BH4-].[Na+]
reactant | sodium borohydride | 4,3 g | [BH4-].[Na+]
reactant | water | 20 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | 2-[(7-methoxy-1,2,3,4-tetrahydronaphth-2-yl)amino]-1-phenylethanol hydrochloride | Yield: 20% | Cl.COC1=CC=C2CCC(CC2=C1)NCC(O)C1=CC=CC=C1 | InChI=1S/C19H23NO2.ClH/c1-22-18-10-8-14-7-9-17(11-16(14)12-18)20-13-19(21)15-5-3-2-4-6-15;/h2-6,8,10,12,17,19-21H,7,9,11,13H2,1H3;1H
